US07109234B2
Stage 3: 2-(S)-Ethyl-3-hydroxypropyl p-toluene-sulfonate (XIXd-1)
1.5 g (0.0043 mol) of 2-(S)-ethyl-3-benzyloxypropyl p-toluenesulfonate (XVIIId-1), 12 ml of ethanol and 0.29 g of 20% palladium hydroxide are introduced into a 100 ml round-bottomed flask. The mixture is vigorously stirred at ambient temperature under a slight hydrogen pressure. After reacting for one hour, the mixture is filtered through celite and the solid is washed with ethanol. The filtrate is concentrated under reduced pressure and the residue is purified by flash chromatography on silica gel (eluent: dichloromethane/cyclohexane=80:20). 1.02 g (0.0039 mol) of the title compound (XIXd-1) are recovered in the form of a colorless oil.

reactant | 2-(S)-ethyl-3-benzyloxypropyl p-toluenesulfonate | 0.0043 mol, 1.5 g | C1(=CC=C(C=C1)S(=O)(=O)OC[C@H](COCC1=CC=CC=C1)CC)C | C19H24O4S
catalyst | palladium hydroxide | 0.29 g | [OH-].[Pd+2].[OH-]
solvent | ethanol | 12 ml | C(C)O | C2H6O
product | 2-(S)-Ethyl-3-hydroxypropyl p-toluene-sulfonate | 0.0039 mol, 1.02 g, Yield: 92% | C1(=CC=C(C=C1)S(=O)(=O)OC[C@H](CO)CC)C | C12H18O4S
